### PR TITLE
[Merged by Bors] - feat(Algebra/Group): Units in pi types

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Pi/Units.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+  map_mul' _ _ := rfl
+
+@[to_additive]
+lemma IsUnit.pi_iff :
+    IsUnit x ↔ ∀ i, IsUnit (x i) := by
+  simp_rw [isUnit_iff_exists, funext_iff, ← forall_and]
+  exact Classical.skolem (p := fun i y ↦ x i * y = 1 ∧ y * x i = 1).symm
+
+@[to_additive]
+alias ⟨IsUnit.apply, _⟩ := IsUnit.pi_iff
```
Comment (alreadydone) [inline Mathlib/Algebra/Group/Pi/Units.lean:32]: Wow, didn't know this works.

**Review by alreadydone — APPROVED** [review]
Thanks! I also need this for #19042
maintainer merge

**Review by alreadydone — COMMENTED** [review]
Instead of a new file, you might consider putting these in Mathlib/Algebra/Group/Invertible/Basic.lean, e.g. [here](github.com/leanprover-community/mathlib4/compare/master...MC_products_refactor#diff-7827d653f71e37d146832e87d91a281db12108a4b6dcfa640d4b64d1eea4824d).

File: Mathlib/Algebra/Group/Pi/Units.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+import Mathlib.Util.Delaborators
+
+/-! # Units in pi types -/
+
+variable {ι} {M : ι → Type*} [∀ i, Monoid (M i)] {x : Π i, M i}
+
+/-- The units of a product is isomorpic to the product of the units. -/
+@[to_additive (attr := simps)
+  "The (additive) units of a product is isomorpic to the product of the (additive) units."]
+def Units.piEquiv : (Π i, M i)ˣ ≃* Π i, (M i)ˣ where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Units.lean:18]: This is inconsistent with `MulEquiv.prodUnits`; can we bring them in sync one way or the other?

File: Mathlib/Algebra/Group/Pi/Units.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+  toFun f i := ⟨f.val i, f.inv i, congr_fun f.val_inv i, congr_fun f.inv_val i⟩
+  invFun f := ⟨(val <| f ·), (inv <| f ·), funext (val_inv <| f ·), funext (inv_val <| f ·)⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
+  map_mul' _ _ := rfl
+
+@[to_additive]
+lemma IsUnit.pi_iff :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Units.lean:26]:
```suggestion
lemma Pi.isUnit_iff :
```
to match `Filter.isUnit_iff`, `Polynomial.isUnit_iff_degree_eq_zero`, etc.

File: Mathlib/Algebra/Group/Pi/Units.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Group/Pi/Units.lean:18]: (and similarly for the docstring)

Comment (alreadydone) [reply Mathlib/Algebra/Group/Pi/Units.lean:18]: I think they are consistent? [MulEquiv.prodUnits](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Prod.html#MulEquiv.prodUnits)

Comment (alreadydone) [reply Mathlib/Algebra/Group/Pi/Units.lean:18]: Oh sorry, you mean the name ...

**Comment by eric-wieser** [comment]
> Instead of a new file, you might consider putting these in Mathlib/Algebra/Group/Invertible/Basic.lean, e.g. [here](github.com/leanprover-community/mathlib4/compare/master...MC_products_refactor#diff-7827d653f71e37d146832e87d91a281db12108a4b6dcfa640d4b64d1eea4824d).

This link doesn't work for me

**Comment by alreadydone** [comment]
Not sure what happened; [this](https://github.com/leanprover-community/mathlib4/compare/master...MC_products_refactor?expand=1#diff-7827d653f71e37d146832e87d91a281db12108a4b6dcfa640d4b64d1eea4824dR170) is hopefully correct.

**Comment by erdOne** [comment]
I think I'm keeping the content in a new file as they does not mention `Invertible`.

File: Mathlib/Algebra/Group/Pi/Units.lean [hunk 4]
```diff
@@ -0,0 +1,39 @@
...
+Authors: Andrew Yang
+-/
+import Mathlib.Algebra.Group.Pi.Basic
+import Mathlib.Algebra.Group.Units.Defs
+import Mathlib.Algebra.Group.Equiv.Basic
+import Mathlib.Util.Delaborators
+
+/-! # Units in pi types -/
+
+variable {ι} {M : ι → Type*} [∀ i, Monoid (M i)] {x : Π i, M i}
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Units.lean:13]:
```suggestion
variable {ι : Type*} {M : ι → Type*} [∀ i, Monoid (M i)] {x : Π i, M i}
```

File: Mathlib/Algebra/Group/Pi/Units.lean [hunk 5]
```diff
@@ -0,0 +1,39 @@
...
+
+open Units in
+/-- The monoid equivalence between units of a product,
+  and the product of the units of each monoid. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Pi/Units.lean:17]: nit: I think indenting wrapped docstrings is going out of fashion, but indeed we have no clear rule on it.

**Review by eric-wieser — APPROVED** [review]
bors d+

It would be good to have `Prod.isUnit_iff` as well, but that's obviously out of scope for this PR unless you want it not to be.

File: Mathlib/Algebra/Group/Pi/Units.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/Algebra/Group/Pi/Units.lean]: Sure, I have no opinion on this; fixed.

**Comment by erdOne** [comment]
I feel that it is out of scope so I opened a separate PR for that #20432

**Comment by erdOne** [comment]
bors merge
